US06727318B1
Preparation of N-(5-Acryloxypentyl)perylene-3,4-dicarboximide (Dye 15a)
2 g (5 mmol) of N-(5-hydroxypentyl)perylene-3,4-dicarboximide from 1. were dissolved under nitrogen in 60 ml of pyridine, with heating at 80° C., cooled to 65° C. and admixed dropwise at this temperature with a solution of 0.81 ml (10 mmol) of acryloyl chloride in 30 ml of anhydrous dioxane. The mixture was stirred at 65° C. for a further 1.5 h, the solvent was removed by distillation, the residue was taken up in 20 ml of chloroform, a filtration was conducted, the filtrate was admixed with 100 ml of hexane, and the precipitated product was isolated by filtration. Chromatography on a short silica gel column using methylene chloride as eluent gave 1.5 g (65%) of the desired product as a brownish red powder with a strong tendency to polymerize on heating.

reactant | N-(5-hydroxypentyl)perylene-3,4-dicarboximide | 5 mmol, 2 g | OCCCCCN1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C27H21NO3
reactant | acryloyl chloride | 10 mmol, 0.81 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(5-Acryloxypentyl)perylene-3,4-dicarboximide | 1.5 g, 65% | C(C=C)(=O)OCCCCCN1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C30H23NO4
